US05708008
5-phenylthio-3-(1-methylpiperidin-4-yl)-1H-indole
To a suspension of 0.21 gm (1.05 mMol) potassium hydride in 5.0 mL tetrahydrofuran at 0° C. was added a solution of 0.3 gm (1.0 mMol) 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole in 5.0 mL tetrahydrofuran and the solution stirred for about 30 minutes. The resulting mixture was cooled to about -78° C. and to it were added 1.47 mL (2.3 mMol) t-butyllithium, which had been precooled to -78° C., via cannula. After about 15 minutes, 0.43 gm (2 mMol) diphenyl disulfide were added and the reaction mixture was allowed to warm gradually to ambient. The reaction mixture was then treated with 5N sodium hydroxide and extracted with diethyl ether. The ether extracts were combined, washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. Purification by flash chromatography, eluting with 4.5:0.5:0.2 ethyl acetate:methanol:toluene, followed by recrystallization from hexane:diethyl ether gave 0.28 gm (85.1%) of the title compound as a white solid.

reactant | potassium hydride | 1.05 mMol, 0.21 gm | [H-].[K+]
reactant | 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole | 1.0 mMol, 0.3 gm | BrC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H17BrN2
reactant | t-butyllithium | 2.3 mMol, 1.47 mL | C(C)(C)(C)[Li]
reactant | diphenyl disulfide | 2 mMol, 0.43 gm | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 5-phenylthio-3-(1-methylpiperidin-4-yl)-1H-indole | 0.28 gm, 85.1% | C1(=CC=CC=C1)SC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H22N2S
